US06562811B1
A mixture of 5-[(1R)-1-amino-2-phenylethyl]-7-(2-hydroxyphenyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-2-one hydrochloride (0.014 g, 0.035 mmol), which was obtained in Example 18-4, in acetonitrile (3.0 mL) was heated at reflux for 2 hrs. The resulting mixture was concentrated under reduced pressure. The residue was dissolved in 1,4-dioxane (1.0 mL), treated with 4N HCl solution in 1,4-dioxane (0.5 mL), and concentrated under reduced pressure. The residue was triturated with acetonitrile, and dried under reduced pressure to give 2-[(1R)-4-amino-1-benzyl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-yl]phenol hydrochloride as a white solid (0.010 g, yield; 80%).

reactant | 5-[(1R)-1-amino-2-phenylethyl]-7-(2-hydroxyphenyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-2-one hydrochloride | 0.035 mmol, 0.014 g | Cl.N[C@H](CC1=CC=CC=C1)C1=CC(=NC=2NC(OCC21)=O)C2=C(C=CC=C2)O
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
product | 2-[(1R)-4-amino-1-benzyl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-yl]phenol hydrochloride | 0.010 g, yield; 80% | Cl.NC1=NC(=CC2=C1CN[C@@H]2CC2=CC=CC=C2)C2=C(C=CC=C2)O | InChI=1S/C20H19N3O.ClH/c21-20-16-12-22-17(10-13-6-2-1-3-7-13)15(16)11-18(23-20)14-8-4-5-9-19(14)24;/h1-9,11,17,22,24H,10,12H2,(H2,21,23);1H/t17-;/m1./s1
